US09381191B2
0.806 ml (9.25 mmol) of morpholine were solubilised in 4 ml of dichloromethane with magnetic stirring, a solution of 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetyl chloride in 4 ml of dichloromethane was added and then the mixture was added at r.t. for 1 h before being treated with 10 ml of water. The aqueous phase was extracted with 2×5 ml of dichloromethane. The combined organic phases were washed with 5 ml of a saturated NaCl aqueous solution, dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: ethyl acetate 100%). 0.211 g (yield=58%) of 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)-1-morpholino ethanone were obtained as a pale yellow solid. LC-MS: m/z=394 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.62 (d, J=6.8 Hz, 1H), 7.74 (dd, J=8.7, 5.5 Hz, 2H), 7.67 (d, J=9.0 Hz, 1H), 7.50-7.39 (m, 1H), 7.33 (t, J=8.9 Hz, 2H), 7.12 (t, J=6.8 Hz, 1H), 4.75 (s, 2H), 4.27 (s, 2H), 3.55-3.46 (m, 4H), 3.39 (s, 4H).

reactant | morpholine | 9.25 mmol, 0.806 ml | N1CCOCC1 | C4H9NO
reactant | 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetyl chloride | FC1=CC=C(C=C1)C#CC1=C(N=C2N1C=CC=C2)COCC(=O)Cl | C18H12ClFN2O2
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)-1-morpholino ethanone | 0.211 g, yield=58% | FC1=CC=C(C=C1)C#CC1=C(N=C2N1C=CC=C2)COCC(=O)N2CCOCC2 | C22H20FN3O3
